US04046900
A solution of 70.6 g of 1-acetyl-4-(4-fluorobenzoyl)piperidine in 200 ml of 6N HCl is refluxed for 2 hours. The cooled solution is extracted twice with ether, the aqueous solution basified with sodium hydroxide and then extracted with benzene. The benzene extracts are dried, filtered and the filtrate is concentrated under reduced pressure. The residual oil is dissolved in ether and HCl gas is bubbled into the solution with stirring. The salt is collected by filtration, washed with ether and dried. The salt is recrystallized from isopropanol to give the solid product of 4-(4-fluorobenzoyl)piperidine hydrochloride, mp 222°-224° C.

reactant | 1-acetyl-4-(4-fluorobenzoyl)piperidine | 70.6 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | HCl | 6N, 200 ml | Cl | ClH
product | 4-(4-fluorobenzoyl)piperidine hydrochloride | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1 | InChI=1S/C12H14FNO.ClH/c13-11-3-1-9(2-4-11)12(15)10-5-7-14-8-6-10;/h1-4,10,14H,5-8H2;1H
